US04369058
2-Acetamido-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
2-Amino-N-[(4-methoxy-6-methylpyrimidin-2-yl) aminocarbonyl]benzenesulfonamide (1.0 g) suspended in 25 ml of dichloromethane was treated with ketene for 10 minutes (ca. 0.4 mole/hr). The mixture was allowed to stand and after 15 minutes a light orange solution resulted. Evaporation of the solvent gave an orange glassy oil which was triturated with water and allowed to stand for 16 hours. The white solid thus obtained was removed by filtration and dried in-vacuo to yield 0.24 g of the desired product, m.p. 161°-162°. The product showed absorption peaks by proton NMR at 4.0 (singlet, 3H); 2.5 (singlet, 3H) and 2.1 (singlet, 3H) consistent for the acetylated derivative. The infrared absorption spectrum showed peaks at 1700, 1695, 1610 and 1580 also confirming the desired acylation.

reactant | 2-Amino-N-[(4-methoxy-6-methylpyrimidin-2-yl) aminocarbonyl]benzenesulfonamide | 1.0 g | NC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C | C13H15N5O4S
reactant | ketene | C=C=O | C2H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-Acetamido-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | 0.24 g | C(C)(=O)NC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C | C15H17N5O5S
